US04797150
2-(2'-Nitro-4'-chlorobenzoyl)-4,4,6,6-tetramethyl-1,3,5-cyclohexanetrione
2-Nitro-4-chlorobenzoyl chloride (2.2 g, 10 mmol) and 4,4,6,6-tetramethyl-1,3,5-cyclohexanetrione (1.8 g, 10 mmol) were dissolved in methylene chloride. Triethylamine was added and the resulting solution stirred at room temperature for 30 minutes. The solution was washed with 1 normal hydrochloric acid (1N HCl), and saturated sodium chloride (brine), dried over anhydrous magnesium sulfate (MgSO4) and concentrated under vacuum. The residue was dissolved in 20 ml acetonitrile. Triethylamine (5 ml, 3.5 equivalents) and acetone cyanohyrdin (0.5 g, 0.6 equivalent) were added and the mixture stirred at room temperature for 4 hours. After dilution with ether, the solution was washed with 1N HCl and extracted with 5% K2CO3. The basic extract was acidified with HCl and extracted with ether. The ether extract was washed with brine, dried over MgSO4 and concentrated under vacuum, yielding 2.2 g of crude product.

reactant | 2-Nitro-4-chlorobenzoyl chloride | 10 mmol, 2.2 g | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl2NO3
reactant | 4,4,6,6-tetramethyl-1,3,5-cyclohexanetrione | 10 mmol, 1.8 g | CC1(C(CC(C(C1=O)(C)C)=O)=O)C | C10H14O3
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
reactant | Triethylamine | 5 ml, 3.5 equivalents | C(C)N(CC)CC | C6H15N
reactant | acetone | CC(=O)C | C3H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(2'-Nitro-4'-chlorobenzoyl)-4,4,6,6-tetramethyl-1,3,5-cyclohexanetrione | 2.2 g | [N+](=O)([O-])C1=C(C(=O)C2C(C(C(C(C2=O)(C)C)=O)(C)C)=O)C=CC(=C1)Cl | C17H16ClNO6
